US09388161B2
A 100-mL, 3-necked round-bottom flask was charged with 2-bromo-3-methylpyridine (1.00 g, 5.81 mmol) and diethyl ether (30 mL). A solution of isopropylmagnesium chloride (2 M in THF, 8.0 mL, 16.0 mmol) was added dropwise with stirring at 0° C., and the resulting solution stirred for 3 h at 0° C. Triisopropyl borate (2.6 g, 13.8 mmol) was added, and the solution stirred for 1 h at room temperature. The reaction was then quenched by the addition of saturated aqueous ammonium chloride solution (10 mL). The aqueous layer was separated and extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to afford 3-methylpyridin-2-ylboronic acid (0.730 g, 92%) as light yellow oil. MS (ESI, pos. ion) m/z 138 [M+H]+.

reactant | 2-bromo-3-methylpyridine | 5.81 mmol, 1.00 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | isopropylmagnesium chloride | 16.0 mmol, 2 M, 8.0 mL | C(C)(C)[Mg]Cl
reactant | Triisopropyl borate | 13.8 mmol, 2.6 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 3-methylpyridin-2-ylboronic acid | 0.730 g, 92% | CC=1C(=NC=CC1)B(O)O | C6H8BNO2
